* source DIFFEREN
E_U8         N28180 0 VALUE {LIMIT(V(0,N28083)*1E6,-15V,+15V)}
R_R1         N28083 N28180  1600 TC=0,0 
C_C1         N28087 N28083  0.000001  TC=0,0 
V_V1         N28087 0  AC 0
+SIN 0 2.5 100 0 0 0
E_U9         N29049 0 VALUE {LIMIT(V(0,N28987)*1E6,-15V,+15V)}
V_V2         N28991 0  AC 0
+SIN 0 2.5 100 0 0 0
R_R2         N28991 N28987  22 TC=0,0 
C_C2         N28987 N29049  0.000075  TC=0,0 
R_R3         N30453 N30563  755000 TC=0,0 
D_D2         N33750 N30453 Dbreak 
X_U2         0 N30453 N30447 N304273 N30457 uA741
V_V9         0 N304273 100
V_V10         N30447 0 100
D_D3         N33800 N33750 Dbreak 
V_V12         0 N337743 100
V_V13         N33794 0 100
R_R4         N33816 N33800  1000000 TC=0,0 
X_U10         0 N33800 N33794 N337743 N33750 uA741
V_V15         N30457 N30563 00
E_U12         N33816 0 VALUE {LIMIT(V(N48617,N48415)*1E6,-15V,+15V)}
D_D6         0 N48629 Dbreak 
R_R9         0 N48617  100000 TC=0,0 
D_D5         N48591 N48617 Dbreak 
R_R10         N48415 N33816  1450 TC=0,0 
R_R11         0 N48415  100 TC=0,0 
D_D7         N48629 N48617 Dbreak 
D_D4         0 N48591 Dbreak 
V_V17         N48591 N48629  AC 0
+SIN 0 5 100 0 0 0
R_R12         N29049 N50646  1000 TC=0,0 
R_R13         N30457 N50646  1000 TC=0,0 
R_R14         N50646 N52110  1000 TC=0,0 
R_R15         N28180 N50646  1000 TC=0,0 
X_U14         0 N50646 N52100 N520803 N52110 uA741
V_V19         N52100 0 100
V_V18         0 N520803 100
D_D8         N33750 N30453 Dbreak 
